US04451479
3-Amino-1-(m-fluorophenyl)-4-methyl-2-pyrazoline
A 1.38 g. amount of sodium metal is dissolved in 150 ml. of absolute ethanol, then 8.1 g. of m-fluorophenylhydrazine hydrochloride is added followed by 3.9 g. of methacrylonitrile. The reaction mixture is refluxed for 5 hours, then is evaporated to dryness in vacuo. Water is added to give a dark semi-solid precipitate. The aqueous is decanted then more water is added and the solid is collected by filtration. The solid is dissolved in dichloromethane and the solution is passed through a short column of a hydrous magnesium silicate. The effluent is evaporated to give an oil. The oil is dissolved in hexane, treated with activated charcoal and filtered and evaporated to give a solid. The solid is recrystallized from hexane to give 0.65 g. of the desired product as light orange prisms, m.p. 78°-80° C.

reactant | sodium | [Na] | Na
reactant | m-fluorophenylhydrazine hydrochloride | Cl.FC=1C=C(C=CC1)NN
reactant | methacrylonitrile | C(C(=C)C)#N | C4H5N
reactant | charcoal | C | CH4
solvent | hexane | CCCCCC | C6H14
solvent | ethanol | C(C)O | C2H6O
product | 3-Amino-1-(m-fluorophenyl)-4-methyl-2-pyrazoline | NC1=NN(CC1C)C1=CC(=CC=C1)F | C10H12FN3
